US07232930B2
Methyl-4-[(methylsulfonyl)amino]-γ-oxobenzenebutanoate (IId)
4-[(methylsulfonyl)amino]γ-oxobenzenebutanoic acid IIe, (125 g, 0.46 mol) was placed in a flask with 2.5 L of methanol, and 4.6 g of concentrated sulfuric acid (0.047 mol) was added. The slurry was heated to 60° C. for 4 hr, during this period the solids went into solution. After 4 hrs, an aliquot was removed to monitor completion by HPLC. The reaction was determined complete when NMT 2% of the starting material remained. The solution was cooled to 21° C., allowing the product to crystallize. The slurry was cooled to 0° C., and the product was collected by filtration. The filter cake was washed with a mixture of 375 ml of methanol and 12.5 ml of triethylamine (×2), followed by 375 mL of methanol. The title product was obtained in 92% yield (99 area %). Melting point 181-183° C. 1H NMR (400 MHz, DMSO-d6) δ 10.32 (s, 1H), 7.95 (d, J=8.4 Hz, 2H), 7.30 (d, J=8.8 Hz, 2H), 3.58 (s, 3H), 3.2(s, 1H), 3.24 (t, J=6.4 Hz, 2H), 3.1 (s, 3H), 2.63 (t, J=6.4 Hz, 2H); 13C NMR (100 MHz, DMSO-d6) δ C 196.8, 172.8, 143.0, 131.0; CH 129.6, 117.5; CH2 32.7, 27.6; CH3 51.3, 39.8; MS m/z calcd for C12H14NO5S 284.31 (M−H)+; found 284.00 (M−H)+.

reactant | 4-[(methylsulfonyl)amino]γ-oxobenzenebutanoic acid | CS(=O)(=O)NC1=CC=C(C=C1)C(CCC(=O)O)=O | C11H13NO5S
reactant | sulfuric acid | 0.047 mol, 4.6 g | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 2.5 L | CO | CH4O
product | Methyl-4-[(methylsulfonyl)amino]-γ-oxobenzenebutanoate | 92% yield | COC(CCC(C1=CC=C(C=C1)NS(=O)(=O)C)=O)=O | C12H15NO5S
